.inc CoilcraftTemplates.lib

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : LPZ3008-224
* Inductance = 220uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-10MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt LPZ3008-224_freq port1 port2 PARAMS: Cpar=1.156pF Ind=220uH
X1 port1 port2 Model1A PARAMS:
+ R1=1370
+ R2=11.5
+ C= {Cpar}
+ K1=0.0013
+ K2=58
+ K3= {Ind}
+ K4=1.45
+ K5=0.00001
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=78079.45675
.ends LPZ3008-224_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : LPZ3008-224
* Inductance = 220uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-10MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt LPZ3008-224_imp port1 port2 PARAMS: Cpar=1.121pF Ind=220uH
X1 port1 port2 Model1D PARAMS:
+ R1=1370
+ R2=11.5
+ C= {Cpar}
+ K1=0.0013
+ K2=58
+ K3= {Ind}
+ K4=1.45
+ K5=0.00001
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=78079.45675
.ends LPZ3008-224_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : LPZ3008-334
* Inductance = 330uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-10MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt LPZ3008-334_freq port1 port2 PARAMS: Cpar=1.484pF Ind=330uH
X1 port1 port2 Model1A PARAMS:
+ R1=820
+ R2=18
+ C= {Cpar}
+ K1=0.0009
+ K2=108
+ K3= {Ind}
+ K4=1.55
+ K5=0.0000103
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=138880.7276
.ends LPZ3008-334_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : LPZ3008-334
* Inductance = 330uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-10MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt LPZ3008-334_imp port1 port2 PARAMS: Cpar=1.454pF Ind=330uH
X1 port1 port2 Model1D PARAMS:
+ R1=820
+ R2=18
+ C= {Cpar}
+ K1=0.0009
+ K2=108
+ K3= {Ind}
+ K4=1.55
+ K5=0.0000103
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=138880.7276
.ends LPZ3008-334_imp

