.inc CoilcraftTemplates.lib

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : LPZ3010-334
* Inductance = 330uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-10MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt LPZ3010-334_freq port1 port2 PARAMS: Cpar=1.25pF Ind=330uH
X1 port1 port2 Model1A PARAMS:
+ R1=2500
+ R2=18.5
+ C= {Cpar}
+ K1=0.0011
+ K2=66
+ K3= {Ind}
+ K4=1.07
+ K5=0.0000101
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=67326.07423
.ends LPZ3010-334_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : LPZ3010-334
* Inductance = 330uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-10MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt LPZ3010-334_imp port1 port2 PARAMS: Cpar=1.232pF Ind=330uH
X1 port1 port2 Model1D PARAMS:
+ R1=2500
+ R2=18.5
+ C= {Cpar}
+ K1=0.0011
+ K2=66
+ K3= {Ind}
+ K4=1.07
+ K5=0.0000101
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=67326.07423
.ends LPZ3010-334_imp

