.inc CoilcraftTemplates.lib

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : LPZ3015-334
* Inductance = 330uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-8MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt LPZ3015-334_freq port1 port2 PARAMS: Cpar=4.12pF Ind=330uH
X1 port1 port2 Model1A PARAMS:
+ R1=160
+ R2=22
+ C= {Cpar}
+ K1=0.0044
+ K2=75
+ K3= {Ind}
+ K4=3.83
+ K5=0.0000103
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=116900.9421
.ends LPZ3015-334_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : LPZ3015-334
* Inductance = 330uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-8MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt LPZ3015-334_imp port1 port2 PARAMS: Cpar=3.939pF Ind=330uH
X1 port1 port2 Model1D PARAMS:
+ R1=160
+ R2=22
+ C= {Cpar}
+ K1=0.0044
+ K2=75
+ K3= {Ind}
+ K4=3.83
+ K5=0.0000103
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=116900.9421
.ends LPZ3015-334_imp

