.inc CoilcraftTemplates.lib

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : LPZ3314-105
* Inductance = 1000uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-5MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt LPZ3314-105_freq port1 port2 PARAMS: Cpar=2.54pF Ind=1000uH
X1 port1 port2 Model1A PARAMS:
+ R1=185
+ R2=31
+ C= {Cpar}
+ K1=0.00001
+ K2=310
+ K3= {Ind}
+ K4=9.21
+ K5=0.0000111
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=437466.3773
.ends LPZ3314-105_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : LPZ3314-105
* Inductance = 1000uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-5MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt LPZ3314-105_imp port1 port2 PARAMS: Cpar=2.457pF Ind=1000uH
X1 port1 port2 Model1D PARAMS:
+ R1=185
+ R2=31
+ C= {Cpar}
+ K1=0.00001
+ K2=310
+ K3= {Ind}
+ K4=9.21
+ K5=0.0000111
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=437466.3773
.ends LPZ3314-105_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : LPZ3314-155
* Inductance = 1500uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-5MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt LPZ3314-155_freq port1 port2 PARAMS: Cpar=2.3pF Ind=1500uH
X1 port1 port2 Model1A PARAMS:
+ R1=185
+ R2=44
+ C= {Cpar}
+ K1=0.00001
+ K2=380
+ K3= {Ind}
+ K4=14.87
+ K5=0.0000114
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=532356.4123
.ends LPZ3314-155_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : LPZ3314-155
* Inductance = 1500uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-5MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt LPZ3314-155_imp port1 port2 PARAMS: Cpar=2.222pF Ind=1500uH
X1 port1 port2 Model1D PARAMS:
+ R1=185
+ R2=44
+ C= {Cpar}
+ K1=0.00001
+ K2=380
+ K3= {Ind}
+ K4=14.87
+ K5=0.0000114
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=532356.4123
.ends LPZ3314-155_imp

