.inc CoilcraftTemplates.lib

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : LPZ4012-335
* Inductance = 3300uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-1MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt LPZ4012-335_freq port1 port2 PARAMS: Cpar=6.93pF Ind=3300uH
X1 port1 port2 Model1A PARAMS:
+ R1=2100
+ R2=76
+ C= {Cpar}
+ K1=0.000001
+ K2=310
+ K3= {Ind}
+ K4=44
+ K5=0.0000189
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=130358.1179
.ends LPZ4012-335_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : LPZ4012-335
* Inductance = 3300uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-1MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt LPZ4012-335_imp port1 port2 PARAMS: Cpar=6.654pF Ind=3300uH
X1 port1 port2 Model1D PARAMS:
+ R1=2100
+ R2=76
+ C= {Cpar}
+ K1=0.000001
+ K2=310
+ K3= {Ind}
+ K4=44
+ K5=0.0000189
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=130358.1179
.ends LPZ4012-335_imp

