.inc CoilcraftTemplates.lib

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : LPZ4018-155
* Inductance = 1500uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-6MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt LPZ4018-155_freq port1 port2 PARAMS: Cpar=3.54pF Ind=1500uH
X1 port1 port2 Model1A PARAMS:
+ R1=200
+ R2=25
+ C= {Cpar}
+ K1=0.002
+ K2=330
+ K3= {Ind}
+ K4=20.2
+ K5=0.0000116
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=395491.5481
.ends LPZ4018-155_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : LPZ4018-155
* Inductance = 1500uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-6MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt LPZ4018-155_imp port1 port2 PARAMS: Cpar=3.386pF Ind=1500uH
X1 port1 port2 Model1D PARAMS:
+ R1=200
+ R2=25
+ C= {Cpar}
+ K1=0.002
+ K2=330
+ K3= {Ind}
+ K4=20.2
+ K5=0.0000116
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=395491.5481
.ends LPZ4018-155_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : LPZ4018-185
* Inductance = 1800uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-4MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt LPZ4018-185_freq port1 port2 PARAMS: Cpar=3.65pF Ind=1800uH
X1 port1 port2 Model1A PARAMS:
+ R1=210
+ R2=31.5
+ C= {Cpar}
+ K1=0.021
+ K2=525
+ K3= {Ind}
+ K4=21.4
+ K5=0.000012
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=540142.7509
.ends LPZ4018-185_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : LPZ4018-185
* Inductance = 1800uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-4MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt LPZ4018-185_imp port1 port2 PARAMS: Cpar=3.513pF Ind=1800uH
X1 port1 port2 Model1D PARAMS:
+ R1=210
+ R2=31.5
+ C= {Cpar}
+ K1=0.021
+ K2=525
+ K3= {Ind}
+ K4=21.4
+ K5=0.000012
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=540142.7509
.ends LPZ4018-185_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : LPZ4018-225
* Inductance = 2200uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-3MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt LPZ4018-225_freq port1 port2 PARAMS: Cpar=3.49pF Ind=2200uH
X1 port1 port2 Model1A PARAMS:
+ R1=400
+ R2=32.5
+ C= {Cpar}
+ K1=0.022
+ K2=700
+ K3= {Ind}
+ K4=21.4
+ K5=0.0000135
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=569691.7042
.ends LPZ4018-225_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : LPZ4018-225
* Inductance = 2200uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-3MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt LPZ4018-225_imp port1 port2 PARAMS: Cpar=3.381pF Ind=2200uH
X1 port1 port2 Model1D PARAMS:
+ R1=400
+ R2=32.5
+ C= {Cpar}
+ K1=0.022
+ K2=700
+ K3= {Ind}
+ K4=21.4
+ K5=0.0000135
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=569691.7042
.ends LPZ4018-225_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : LPZ4018-335
* Inductance = 3300uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-2MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt LPZ4018-335_freq port1 port2 PARAMS: Cpar=3.53pF Ind=3300uH
X1 port1 port2 Model1A PARAMS:
+ R1=430
+ R2=48
+ C= {Cpar}
+ K1=0.0058
+ K2=950
+ K3= {Ind}
+ K4=22.5
+ K5=0.0000194
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=746167.4631
.ends LPZ4018-335_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : LPZ4018-335
* Inductance = 3300uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-2MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt LPZ4018-335_imp port1 port2 PARAMS: Cpar=3.449pF Ind=3300uH
X1 port1 port2 Model1D PARAMS:
+ R1=430
+ R2=48
+ C= {Cpar}
+ K1=0.0058
+ K2=950
+ K3= {Ind}
+ K4=22.5
+ K5=0.0000194
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=746167.4631
.ends LPZ4018-335_imp

