.inc CoilcraftTemplates.lib

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : LPZ4414-155
* Inductance = 1500uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-10MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt LPZ4414-155_freq port1 port2 PARAMS: Cpar=2.4pF Ind=1500uH
X1 port1 port2 Model1A PARAMS:
+ R1=73
+ R2=26.4
+ C= {Cpar}
+ K1=0.0195
+ K2=421
+ K3= {Ind}
+ K4=0.0566
+ K5=0.00645
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=615044.3911
.ends LPZ4414-155_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : LPZ4414-155
* Inductance = 1500uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-10MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt LPZ4414-155_imp port1 port2 PARAMS: Cpar=2.399pF Ind=1500uH
X1 port1 port2 Model1D PARAMS:
+ R1=73
+ R2=26.4
+ C= {Cpar}
+ K1=0.0195
+ K2=421
+ K3= {Ind}
+ K4=0.0566
+ K5=0.00645
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=615044.3911
.ends LPZ4414-155_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : LPZ4414-185
* Inductance = 1800uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-10MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt LPZ4414-185_freq port1 port2 PARAMS: Cpar=2.55pF Ind=1800uH
X1 port1 port2 Model1A PARAMS:
+ R1=77
+ R2=35
+ C= {Cpar}
+ K1=0.0000469
+ K2=1348
+ K3= {Ind}
+ K4=0.0808
+ K5=0.2
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=1685846.315
.ends LPZ4414-185_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : LPZ4414-185
* Inductance = 1800uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-10MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt LPZ4414-185_imp port1 port2 PARAMS: Cpar=2.549pF Ind=1800uH
X1 port1 port2 Model1D PARAMS:
+ R1=77
+ R2=35
+ C= {Cpar}
+ K1=0.0000469
+ K2=1348
+ K3= {Ind}
+ K4=0.0808
+ K5=0.2
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=1685846.315
.ends LPZ4414-185_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : LPZ4414-225
* Inductance = 2200uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-10MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt LPZ4414-225_freq port1 port2 PARAMS: Cpar=2.22pF Ind=2200uH
X1 port1 port2 Model1A PARAMS:
+ R1=57
+ R2=42.5
+ C= {Cpar}
+ K1=0.0000469
+ K2=473
+ K3= {Ind}
+ K4=0.000001
+ K5=0.141
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=685659.7902
.ends LPZ4414-225_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : LPZ4414-225
* Inductance = 2200uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-10MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt LPZ4414-225_imp port1 port2 PARAMS: Cpar=2.22pF Ind=2200uH
X1 port1 port2 Model1D PARAMS:
+ R1=57
+ R2=42.5
+ C= {Cpar}
+ K1=0.0000469
+ K2=473
+ K3= {Ind}
+ K4=0.000001
+ K5=0.141
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=685659.7902
.ends LPZ4414-225_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : LPZ4414-335
* Inductance = 3300uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-10MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt LPZ4414-335_freq port1 port2 PARAMS: Cpar=2.43pF Ind=3300uH
X1 port1 port2 Model1A PARAMS:
+ R1=55
+ R2=56
+ C= {Cpar}
+ K1=0.0000469
+ K2=646
+ K3= {Ind}
+ K4=0.000001
+ K5=0.141
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=832214.8381
.ends LPZ4414-335_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : LPZ4414-335
* Inductance = 3300uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-10MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt LPZ4414-335_imp port1 port2 PARAMS: Cpar=2.43pF Ind=3300uH
X1 port1 port2 Model1D PARAMS:
+ R1=55
+ R2=56
+ C= {Cpar}
+ K1=0.0000469
+ K2=646
+ K3= {Ind}
+ K4=0.000001
+ K5=0.141
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=832214.8381
.ends LPZ4414-335_imp

